US07829572B2
Preparation 1b: 5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-2,3-dihydro-1H-pyrido[4,3-d]pyrimidin-4-one
To a solution of 4-amino-2-chloro-N-phenethyl-nicotinamide (808 mg, 2.93 mmol) in 8 mL of acetonitrile at 20° C. was added 0-anisaldehyde (399 mg, 2.93 mmol) and a catalytic amount of p-toluenesulfonic acid (10 mg, 0.059 mmol). The resulting solution was then heated to reflux under Dean-Stark trap for 12 hours. The reaction mixture was cooled to 20° C. and diluted with ethyl acetate. The mixture was then partitioned between ethyl acetate and aqueous sodium bicarbonate. The organic phase was washed 3× with NaHCO3, 1× with water, 1× with brine and then dried over anhydrous Na2SO4, filtered and evaporated to dryness. 1.08 g of pale yellow sticky solid was obtained. The resulting crude material was used without further purification.

reactant | 4-amino-2-chloro-N-phenethyl-nicotinamide | 2.93 mmol, 808 mg | NC1=CC=NC(=C1C(=O)NCCC1=CC=CC=C1)Cl | C14H14ClN3O
reactant | 0-anisaldehyde | 2.93 mmol, 399 mg | C(C=1C(=CC=CC1)OC)=O | C8H8O2
solvent | acetonitrile | 8 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | p-toluenesulfonic acid | 0.059 mmol, 10 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-Chloro-2-(2-methoxy-phenyl)-3-phenethyl-2,3-dihydro-1H-pyrido[4,3-d]pyrimidin-4-one | 1.08 g | ClC1=NC=CC=2NC(N(C(C21)=O)CCC2=CC=CC=C2)C2=C(C=CC=C2)OC | C22H20ClN3O2
